US08475968B2
Preparation of Ferrocene Carbon Cloth Cathode (C/Fc):
Ferrocene was obtained from Sigma and a saturated ferrocene ethanolic solution was prepared therefrom by dissolving 20 mg ferrocene in 10 ml ethanol.

reactant | Ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | ferrocene | 20 mg | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ferrocene Carbon | [C].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/2C5H5.C.Fe/c2*1-2-4-5-3-1;;/h2*1-5H;;/q2*-1;;+2
